US06387589B1
Synthesis of poly(maleic anhydride/mono-2-ethyl-2-(hydroxymethyl)butyl bicyclo-[2.2.1]hept-5-ene-2,3-dicarboxylate/tert-butyl bicyclo-[2.2.1]hept-5-ene-2-carboxylate/tetrafluoro ethylene)
To a solution of tetrahydrofuran was added 1.0 mole of maleic anhydride, 0.1 mole of mono-2-ethyl-2-(hydroxymethyl)butyl bicyclo-[2.2.1]hept-5-ene-2,3-dicarboxylate, 0.8 mole of tert-butyl bicyclo-[2.2.1]hept-5-ene-2-carboxylate, 0.1 mole of tetrafluoro ethene, and 0.5 to 10 g of AIBN. The resulting mixture was heated to temperature in the range of from about 60 to about 70° C. for 4 to 24 hours under a nitrogen or argon atmosphere.

reactant | maleic anhydride | 1.0 mole | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | mono-2-ethyl-2-(hydroxymethyl)butyl bicyclo-[2.2.1]hept-5-ene-2,3-dicarboxylate | 0.1 mole | C12C(C(C(C=C1)C2)C(=O)[O-])C(=O)OCC(CC)(CO)CC
reactant | tert-butyl bicyclo-[2.2.1]hept-5-ene-2-carboxylate | 0.8 mole | C12C(CC(C=C1)C2)C(=O)OC(C)(C)C | C12H18O2
reactant | tetrafluoro ethene | 0.1 mole | FC(=C(F)F)F | C2F4
reactant | AIBN | 0.5 to 10 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | maleic anhydride mono-2-ethyl-2-(hydroxymethyl)butyl bicyclo-[2.2.1]hept-5-ene-2,3-dicarboxylate tert-butyl bicyclo-[2.2.1]hept-5-ene-2-carboxylate tetrafluoro ethylene | C1(\C=C/C(=O)O1)=O.C12C(C(C(C=C1)C2)C(=O)[O-])C(=O)OCC(CC)(CO)CC.C12C(CC(C=C1)C2)C(=O)OC(C)(C)C.FC(=C(F)F)F | InChI=1S/C16H24O5.C12H18O2.C4H2O3.C2F4/c1-3-16(4-2,8-17)9-21-15(20)13-11-6-5-10(7-11)12(13)14(18)19;1-12(2,3)14-11(13)10-7-8-4-5-9(10)6-8;5-3-1-2-4(6)7-3;3-1(4)2(5)6/h5-6,10-13,17H,3-4,7-9H2,1-2H3,(H,18,19);4-5,8-10H,6-7H2,1-3H3;1-2H;/p-1
